US04304728
Ethyl 3-bromo-6-(4-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate
A solution of bromine (7.06 ml) in chloroform (70 ml) was added dropwise to a stirred solution of ethyl 6-(4-chlorophenyl)-2,4-dioxo-hex-5-enoate (19.2 g) in chloroform (300 ml) at 5° to 10° C. The solution was stirred for 30 minutes at room temperature then evaporated to a yellow oil. This crude tribromide was dissolved in dimethylsulphoxide (150 ml), and 1,5-diazabicyclo[4.3.0]non-5-ene (16.9 g) was added at 20° to 25° C. The mixture was stirred for 30 minutes at room temperature then diluted with ice-water (300 ml) to precipitate a sticky brown solid. A solution of this crude product in chloroform was passed down a short column of silica-gel (100 g) and then evaporated. The residual solid was washed with ethyl acetate-petroleum ether 60°-80° C., then recrystallised from ethyl acetate-petroleum ether 60°-80° C. to give the title product as yellow needles (mp 146°-149° C.).

reactant | bromine | 7.06 ml | BrBr | Br2
reactant | ethyl 6-(4-chlorophenyl)-2,4-dioxo-hex-5-enoate | 19.2 g | ClC1=CC=C(C=C1)C=CC(CC(C(=O)OCC)=O)=O | C14H13ClO4
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-bromo-6-(4-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate | BrC1=C(OC(=CC1=O)C1=CC=C(C=C1)Cl)C(=O)OCC | C14H10BrClO4
